US07939531B2
A mixture of 1-[2-(2-chloro-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.060 g, 0.19 mmol), cyclopenten-1-yl boronic acid (0.032 g, 0.29 mmol), potassium carbonate (0.101 g, 0.73 mmol), and Pd(dppf)Cl2.CH2Cl2 (0.012 g, 0.015 mmol) in 3 mL of 1,4-dioxane and 0.75 mL of water was stirred at 160° C. in a microwave for 30 min. The resulting black suspension was partitioned between 30 mL of ethyl acetate and 30 mL of water, and the aqueous layer was extracted with 30 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->60% EtOAc/hexanes) afforded 0.016 g (25%) of 1-[2-(2-cyclopent-1-enyl-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a pale yellow solid.

reactant | 1-[2-(2-chloro-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.19 mmol, 0.060 g | ClC1=NC=CC(=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C16H15ClN4O
reactant | cyclopenten-1-yl boronic acid | 0.29 mmol, 0.032 g | C1(=CCCC1)B(O)O | C5H9BO2
reactant | potassium carbonate | 0.73 mmol, 0.101 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 0.015 mmol, 0.012 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.75 mL | O | H2O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[2-(2-cyclopent-1-enyl-pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.016 g, 25% | C1(=CCCC1)C1=NC=CC(=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C21H22N4O
